datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23]([C:24]([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])([H:32])([H:33])[H:34]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:24]([C:23]([H:32])([H:33])[H:34])([C:25]([H:35])([H:36])[H:37])[c:26]1[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]1[H:42])[H:13])([H:11])[H:12],34.6435
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][O:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:12][O:13],156.6908
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])([H:19])[C:7]([C:9]([H:22])([H:23])[H:24])[C:8]1([H:20])[H:21])[H:10],57.1534
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])[H:21])([H:19])[H:20]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:19])[H:20])[H:21])([C:16]([H:22])([H:23])[H:24])[C:17](=[C:18]([H:26])[H:27])[H:25])([H:5])[H:6],80.5838
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:14])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])=[C:2]([H:11])[C:3]([H:12])([H:13])[C:4]1([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[H:15])[H:14],78.2826
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[c:7]1([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:13])[H:4].[c:7]1[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]1[H:18],127.612
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6][H:18],190.91592
[C:0](=[C:1]=[C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0](=[C:1]1[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]2[C:5]1([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]([H:18])=[C:9]2[H:19])([H:10])[H:11],182.560472
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[S:7]=[C:8][S:9][H:10]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:8](=[S:7])[S:9][H:10],50.6264
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([C:6](=[C:7]([C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:21])[H:20])([H:18])[H:19])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([H:14])[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[C:6]([H:20])=[C:7]([H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:13])([H:11])[H:12],103.638
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:18])[H:10],97.529
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([H:13])[H:14])[H:12])([H:10])([H:11])[H:17].[C:3](=[C:4]([C:5]([C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:19])[H:20])[H:18])([H:15])[H:16],223.0
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11](=[O:12])[H:13]>>[C-:11]#[O+:12].[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:13])[H:6])([H:4])[H:5],0.0
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])([H:5])[H:6],19.079
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:6])([H:4])[H:5].[S:3]([H:9])[C:10]([H:11])([H:12])[H:13],34.3088
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([H:15])[H:16])[C:7](=[C:8]([H:18])[H:19])[H:17])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([C:7](=[C:8]([H:18])[H:19])[H:17])[C:6]1([H:15])[H:16])[H:9],69.8728
[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])[H:5].[C:7](=[O:8])[H:9]>>[C-:7]#[O+:8].[C:0]([O:1][C:2](=[O:3])[H:6])([H:4])([H:5])[H:9],0.0
